US05166198
a) 4-Chloro-6-[[4-(diethoxyphosphoryl)butoxy]amino]-2,5-diformamidopyrimidine
4,6-Dichloro-2,5-diformamidopyrimidine (0.35 g, 1.5 mmol), diethyl 4-(aminooxy)butylphosphonate (0.216 g, 0.93 mmol) and N,N-diisopropylethylamine (0.521 ml, 3 mmol) were dissolved in diglyme (15 ml) and stirred at 100° C. for 3 hr. The reaction mixture was then allowed to cool, the hydrochloride of N,N-diisopropylethylamine was filtered off and the filtrate was diluted with chloroform (150 ml). The resulting solution was washed with 4% aq. NaHCO3 (1×20 ml) and water (1×20 ml). The combined aqueous layers were extracted with chloroform (4×20 ml) and the combined chloroform solutions were evaporated to dryness. The residue was chromatographed on silica gel (eluted with chloroform-ethanol, 96:4) to yield the title compound (0.330 g, 81%). 1H NMR: δH ((CD3)2SO) 1.22 (6H, t, J=7Hz, (OCH2CH3)2), 1.7 (6H, m, CH2CH2CH 2 P), 3.87 (2H, t, J=5Hz, OCH2), 3.98 (4H, m, (OCH2CH3)2) 8.14 (1H, s, 5-NHCHO), 8.31 (1H, s, 6-NHCHO), 9.24 (1H, br.s, 2-NHCHO), 9.41 (1H, br.s, D2O exchangeable, NHOCH2), 10.81 (2H, br.s, D2O exchangeable, NHCHO, NHCHO).

reactant | 4,6-Dichloro-2,5-diformamidopyrimidine | 1.5 mmol, 0.35 g | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | diethyl 4-(aminooxy)butylphosphonate | 0.93 mmol, 0.216 g | NOCCCCP(OCC)(OCC)=O | C8H20NO4P
reactant | N,N-diisopropylethylamine | 3 mmol, 0.521 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | diglyme | 15 ml | COCCOCCOC | C6H14O3
product | 4-Chloro-6-[[4-(diethoxyphosphoryl)butoxy]amino]-2,5-diformamidopyrimidine | 0.330 g, 81% | ClC1=NC(=NC(=C1NC=O)NOCCCCP(=O)(OCC)OCC)NC=O | C14H23ClN5O6P
